US04859684
(a-4) A mixture of 8 parts of 3-amino-4-(propylamino)benzenemethanol, 14.05 parts of ethyl 3-pyridinecarboximidate dihydrochloride, 9.8 parts of sodium acetate and 96 parts of ethanol was stirred for 16 hours at room temperature. The reaction mixture was evaporated. The residue was dissolved in water and treated with ammonia. The precipitated product was filtered off, washed with water and dissolved in dichloromethane. The organic layer was dried, filtered and evaporated. The residue was washed with 2,2'-oxybispropane, yielding 9.9 parts (84.1%) of 1-propyl-2-(3-pyridinyl)-1H-benzimidazole-5-methanol as a residue (interm. 4).

reactant | 3-amino-4-(propylamino)benzenemethanol | NC=1C=C(C=CC1NCCC)CO | C10H16N2O
reactant | ethyl 3-pyridinecarboximidate dihydrochloride | Cl.Cl.N1=CC(=CC=C1)C(OCC)=N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-propyl-2-(3-pyridinyl)-1H-benzimidazole-5-methanol | 84.1% | C(CC)N1C(=NC2=C1C=CC(=C2)CO)C=2C=NC=CC2 | C16H17N3O
